US04117238
300 g of methyl methacrylate (3 mole), 135 g of stearyl alcohol (0.5 mole), 4.35 g of KCN (1%) and 0.108 g of hydroquinone methyl ether (250 ppm) are added to a 1 liter round-bottomed flask. The mixture is heated to about 75° C. by conducting air through it and the methyl methacrylate/methanol-azeotrope is removed at a temperature of 65° C. at the head of the column by way of a 1 m vigreux column. The trans-esterification is completed after 3.5 hours. After cooling down of the flask, the sump is filtered to remove the potassium cyanide, and the filter residue is washed with a little methyl methacrylate. The filtrate is concentrated at 40° C. under a water jet vacuum. A white, crystalline residue of stearyl methacrylate of 162 g = 96% will result.

reactant | methyl methacrylate | 3 mole, 300 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | stearyl alcohol | 0.5 mole, 135 g | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | KCN | 4.35 g | [C-]#N.[K+]
reactant | hydroquinone methyl ether | 0.108 g | COC1=CC=C(O)C=C1 | C7H8O2
product | stearyl methacrylate | C(C(=C)C)(=O)OCCCCCCCCCCCCCCCCCC | C22H42O2
